US04742052
A mixture of sodium borohydride (38 mg) and 1-(di-p-anisylmethyl)-3-acetyl-4-acetoxy-2-azetidinone (397 mg) in isopropanol (6 ml) was stirred for 0.5 hour at room temperature. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-acetoxy-2-azetidinone (the product was a mixture of two stereoisomers (about 1:1) of hydroxyethyl group).

reactant | sodium borohydride | 38 mg | [BH4-].[Na+]
reactant | 1-(di-p-anisylmethyl)-3-acetyl-4-acetoxy-2-azetidinone | 397 mg | C(C1=CC=C(C=C1)OC)C(N1C(C(C1OC(C)=O)C(C)=O)=O)CC1=CC=C(C=C1)OC | C24H27NO6
solvent | isopropanol | 6 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-acetoxy-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1OC(C)=O)C(C)O)=O)CC1=CC=C(C=C1)OC | C24H29NO6
